US09359359B2
To a solution of 7-benzyl-8-(3-(trifluoromethoxy)phenoxy)-3-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione (0.59 g, 1.07 mmol) in ethanol (20 mL) was added concentrated HCl (2 mL). The reaction was stirred at 80° C. for 16 h. The reaction was concentrated and partitioned between ethyl acetate and saturated sodium bicarbonate. The organic phase was washed with brine, dried over sodium sulfate, and concentrated to give 7-benzyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (390 mg, 87.1% yield) as yellow oil. LCMS retention time 1.543 min; LCMS MH+ 419.

reactant | 7-benzyl-8-(3-(trifluoromethoxy)phenoxy)-3-((2-(trimethylsilyl)ethoxy)methyl)-1H-purine-2,6(3H,7H)-dione | 1.07 mmol, 0.59 g | C(C1=CC=CC=C1)N1C(=NC=2N(C(NC(C12)=O)=O)COCC[Si](C)(C)C)OC1=CC(=CC=C1)OC(F)(F)F | C25H27F3N4O5Si
reactant | HCl | 2 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 7-benzyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 390 mg, 87.1% yield | C(C1=CC=CC=C1)N1C(=NC=2NC(NC(C12)=O)=O)OC1=CC(=CC=C1)OC(F)(F)F | C19H13F3N4O4
